US05721245
500 mg of a 60% dispersion of sodium hydride in mineral oil were added to solution of 1 g of 5-bromoindole-3-acetic acid in 50 ml of tetrahydrofuran and the mixture was stirred under a nitrogen atmosphere for 1 hour. Thereafter, 820 mg (5.8 mmol) of methyl iodide were added and the mixture was stirred under a nitrogen atmosphere for 24 hours. Then, 5 ml of water were added and the solvent was removed under reduced pressure. The residue was treated with 2M hydrochloric acid and the precipitate formed was filtered off, washed with n-hexane and dried. The obtained solid was recrystallized from diethyl ether to give 5-bromo-1-methyl-3-indolylacetic acid of melting point 192°-194° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 5-bromoindole-3-acetic acid | 1 g | BrC=1C=C2C(=CNC2=CC1)CC(=O)O | C10H8BrNO2
reactant | methyl iodide | 5.8 mmol, 820 mg | CI | CH3I
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-bromo-1-methyl-3-indolylacetic acid | BrC=1C=C2C(=CN(C2=CC1)C)CC(=O)O | C11H10BrNO2
